*
*|DSPF 1.5
*
*|DATE "Sun Jan 14 12:55:55 2024"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Quantus Extraction"
*|VERSION "22.1.0-p089 Linux 64 bit - (Thu Jan 19 11:47:08 PST 2023)"
*|DESIGN "AOI222X1"
*|DIVIDER /
*|DELIMITER #
*|DeviceFingerDelim "@"
*|BUSBIT []
*|GLOBAL_TEMPERATURE 25
*|OPERATING_TEMPERATURE 25
** QRC_TECH_DIR /vols/wfo_devel/projects/reference_SKY130/tech/sky130_release_0.0.1/quantus/extraction/typical 
** caps2d version: 10
*
.GLOBAL VDD VSS
*
.SUBCKT  AOI222X1 A0 A1 B0 B1 C0 C1 Y
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET A0 4.71837e-16
*|P (A0 X 0 0.4720 1.6950)
*|I (MX27/M0#g MX27/M0 g X 0 0.4750 0.9700)
*|I (MX26/M0#g MX26/M0 g X 0 0.4750 2.9850)
*|S (A0#7 0.4150 1.6250)
*|S (A0#8 0.4600 1.6250)
C1 MX26/M0#g VSS 6.75015e-17
C2 MX27/M0#g VSS 5.17401e-17
C3 A0#7 VSS 9.36165e-17
C4 A0 VSS 2.58978e-16
Rg1 MX26/M0#g A0#7 422.895935 $W=0.15
Rg2 A0#7 MX27/M0#g 196.355942 $W=0.15
Rf3 A0#8 A0#7 18.388235 $W=0.17
Re4 A0 A0#8 152.033661 $W=0.26
*
*|NET A1 5.46086e-16
*|P (A1 X 0 0.9320 2.1400)
*|I (MX28/M0#g MX28/M0 g X 0 0.9050 0.9700)
*|I (MM0#g MM0 g X 0 0.9050 2.9850)
*|S (A1#7 0.9050 2.1050)
*|S (A1#8 0.9200 2.1050)
C5 MM0#g VSS 6.18257e-17
C6 MX28/M0#g VSS 5.31397e-17
C7 A1#7 VSS 9.01563e-17
C8 A1 VSS 3.40965e-16
Rg5 MM0#g A1#7 263.932404 $W=0.15
Rg6 A1#7 MX28/M0#g 345.872437 $W=0.15
Rf7 A1#8 A1#7 16.129412 $W=0.17
Re8 A1#8 A1 152.016830 $W=0.26
*
*|NET B0 5.63145e-16
*|P (B0 X 0 1.8520 2.1350)
*|I (MX20/M0#g MX20/M0 g X 0 1.7650 0.9700)
*|I (MX24/M0#g MX24/M0 g X 0 1.7650 2.9850)
*|S (B0#7 1.8250 2.1050)
*|S (B0#8 1.8400 2.1050)
C9 MX24/M0#g VSS 6.58382e-17
C10 MX20/M0#g VSS 5.23758e-17
C11 B0#7 VSS 1.04614e-16
C12 B0 VSS 3.40318e-16
Rg9 MX24/M0#g B0#7 268.655945 $W=0.15
Rg10 B0#7 MX20/M0#g 350.595947 $W=0.15
Rf11 B0#8 B0#7 16.129412 $W=0.17
Re12 B0#8 B0 152.014420 $W=0.26
*
*|NET B1 5.40307e-16
*|P (B1 X 0 1.3920 1.7470)
*|I (MX29/M0#g MX29/M0 g X 0 1.3350 0.9700)
*|I (MX23/M0#g MX23/M0 g X 0 1.3350 2.9850)
*|S (B1#7 1.3350 1.6250)
*|S (B1#8 1.3800 1.6250)
C13 MX23/M0#g VSS 6.34229e-17
C14 MX29/M0#g VSS 5.13968e-17
C15 B1#7 VSS 9.32661e-17
C16 B1 VSS 3.32221e-16
Rg13 MX23/M0#g B1#7 418.172424 $W=0.15
Rg14 B1#7 MX29/M0#g 191.632416 $W=0.15
Rf15 B1#8 B1#7 18.388235 $W=0.17
Re16 B1 B1#8 152.058655 $W=0.26
*
*|NET C0 5.97467e-16
*|P (C0 X 0 2.3120 1.9760)
*|I (MX21/M0#g MX21/M0 g X 0 2.7150 0.9700)
*|I (MX25/M0#g MX25/M0 g X 0 2.7150 2.9850)
*|S (C0#7 2.6550 1.6250)
*|S (C0#9 2.3000 1.6250)
C17 MX25/M0#g VSS 6.99388e-17
C18 MX21/M0#g VSS 5.22048e-17
C19 C0#9 VSS 1.95271e-16
C20 C0#7 VSS 6.48698e-17
C21 C0 VSS 2.15182e-16
Rg17 MX25/M0#g C0#7 422.895935 $W=0.15
Rg18 C0#7 MX21/M0#g 196.355942 $W=0.15
Rf19 C0#7 C0#9 41.729412 $W=0.17
Re20 C0 C0#9 152.168747 $W=0.26
*
*|NET C1 4.48436e-16
*|P (C1 X 0 3.6920 2.4120)
*|I (MX30/M0#g MX30/M0 g X 0 3.1450 0.9700)
*|I (MX22/M0#g MX22/M0 g X 0 3.1450 2.9850)
*|S (C1#7 3.2050 2.1050)
*|S (C1#8 3.6800 2.1050)
C22 MX22/M0#g VSS 6.34977e-17
C23 MX30/M0#g VSS 5.39171e-17
C24 C1#8 VSS 1.36313e-16
C25 C1#7 VSS 7.03755e-17
C26 C1 VSS 1.24332e-16
Rg21 MX22/M0#g C1#7 268.655945 $W=0.15
Rg22 C1#7 MX30/M0#g 350.595947 $W=0.15
Rf23 C1#8 C1#7 50.764706 $W=0.17
Re24 C1 C1#8 152.147598 $W=0.26
*
*|NET Y 1.31147e-15
*|P (Y X 0 2.7830 1.7740)
*|I (MX30/M0#d MX30/M0 d X 0 3.2205 0.9700)
*|I (MX29/M0#d MX29/M0 d X 0 1.2595 0.9700)
*|I (MX28/M0#d MX28/M0 d X 0 0.9805 0.9700)
*|I (MX25/M0#d MX25/M0 d X 0 2.7905 2.9850)
*|I (MX22/M0#d MX22/M0 d X 0 3.0695 2.9850)
*|S (Y#2 1.1200 0.7950)
*|S (Y#4 2.9300 2.7650)
*|S (Y#5 3.3600 1.0050)
*|S (Y#8 2.8375 0.7950)
C27 MX25/M0#d VSS 1.1999e-18
C28 MX30/M0#d VSS 7.5177e-17
C29 Y#8 VSS 2.18249e-16
C30 Y#2 VSS 3.46994e-16
C31 Y#4 VSS 4.09764e-16
C32 Y#5 VSS 8.29143e-17
C33 Y VSS 1.77171e-16
Rf25 MX29/M0#d Y#2 20.676472 $W=0.17
Rf26 MX25/M0#d Y#4 10.991489 $W=0.47
Rf27 Y#5 MX30/M0#d 8.423712 $W=0.485
Re28 Y#5 Y#8 76.332596 $W=0.23
Re29 Y#8 Y#2 152.923080 $W=0.23
Re30 Y#8 Y 0.260392 $W=0.415
Re31 Y Y#4 76.298492 $W=0.415
Rmw32 MX28/M0#d MX29/M0#d 0.001000 $W=1000000
Rmw33 MX22/M0#d MX25/M0#d 0.001000 $W=1000000
*
*|NET 2 9.45579e-16
*|I (MX26/M0#d MX26/M0 d X 0 0.3995 2.9850)
*|I (MX24/M0#s MX24/M0 s X 0 1.8405 2.9850)
*|I (MX23/M0#s MX23/M0 s X 0 1.2595 2.9850)
*|I (MM0#d MM0 d X 0 0.9805 2.9850)
*|S (2 0.2600 3.0150)
*|S (2#3 1.1200 3.0150)
*|S (2#5 1.9800 3.0150)
C34 MX23/M0#s VSS 2.00414e-16
C35 MX24/M0#s VSS 1.87062e-16
C36 MX26/M0#d VSS 1.42993e-16
C37 2#3 VSS 1.42727e-16
C38 2#5 VSS 1.70968e-16
C39 2 VSS 1.01414e-16
Rf34 2 MX26/M0#d 7.258823 $W=0.17
Rf35 2#3 MX23/M0#s 159.258820 $W=0.17
Rf36 2#5 MX24/M0#s 7.258823 $W=0.17
Re37 2#5 2#3 152.467392 $W=0.23
Re38 2#3 2 152.467392 $W=0.23
Rmw39 MM0#d MX23/M0#s 0.001000 $W=1000000
*
*|NET 3 9.55577e-16
*|I (MX25/M0#s MX25/M0 s X 0 2.6395 2.9850)
*|I (MX24/M0#d MX24/M0 d X 0 1.6895 2.9850)
*|I (MX23/M0#d MX23/M0 d X 0 1.4105 2.9850)
*|I (MX22/M0#s MX22/M0 s X 0 3.2205 2.9850)
*|S (3 1.5500 3.3850)
*|S (3#3 2.5000 3.3850)
*|S (3#5 3.3600 3.3850)
C40 MX22/M0#s VSS 1.59122e-16
C41 MX24/M0#d VSS 2.00103e-16
C42 MX25/M0#s VSS 1.70136e-16
C43 3#3 VSS 1.54681e-16
C44 3#5 VSS 1.1471e-16
C45 3 VSS 1.56826e-16
Rf40 3 MX24/M0#d 35.117649 $W=0.17
Rf41 3#3 MX25/M0#s 187.117645 $W=0.17
Rf42 3#5 MX22/M0#s 35.117649 $W=0.17
Re43 3#5 3#3 152.467392 $W=0.23
Re44 3#3 3 152.516312 $W=0.23
Rmw45 MX23/M0#d MX24/M0#d 0.001000 $W=1000000
*
*|NET 17 1.67961e-16
*|I (MX29/M0#s MX29/M0 s X 0 1.4105 0.9700)
*|I (MX20/M0#d MX20/M0 d X 0 1.6895 0.9700)
*|S (17 1.5500 0.9700)
C46 17 VSS 1.67961e-16
Rmw46 MX29/M0#s 17 0.001000 $W=1000000
Rmw47 MX20/M0#d 17 0.001000 $W=1000000
*
*|NET 18 1.38121e-16
*|I (MX30/M0#s MX30/M0 s X 0 3.0695 0.9700)
*|I (MX21/M0#d MX21/M0 d X 0 2.7905 0.9700)
*|S (18 2.9300 0.9700)
C47 18 VSS 1.38121e-16
Rmw48 MX30/M0#s 18 0.001000 $W=1000000
Rmw49 MX21/M0#d 18 0.001000 $W=1000000
*
*|NET 20 1.59271e-16
*|I (MX28/M0#s MX28/M0 s X 0 0.8295 0.9700)
*|I (MX27/M0#d MX27/M0 d X 0 0.5505 0.9700)
*|S (20 0.6900 0.9700)
C48 20 VSS 1.59271e-16
Rmw50 MX28/M0#s 20 0.001000 $W=1000000
Rmw51 MX27/M0#d 20 0.001000 $W=1000000
*
*Instance Section
*
MX30/M0	MX30/M0#d	MX30/M0#g	MX30/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX29/M0	MX29/M0#d	MX29/M0#g	MX29/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX28/M0	MX28/M0#d	MX28/M0#g	MX28/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX27/M0	MX27/M0#d	MX27/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX21/M0	MX21/M0#d	MX21/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX20/M0	MX20/M0#d	MX20/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX26/M0	MX26/M0#d	MX26/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX25/M0	MX25/M0#d	MX25/M0#g	MX25/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX24/M0	MX24/M0#d	MX24/M0#g	MX24/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX23/M0	MX23/M0#d	MX23/M0#g	MX23/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX22/M0	MX22/M0#d	MX22/M0#g	MX22/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MM0	MM0#d	MM0#g	VDD	VDD	pfet_01v8	L=1.5e-07
+ W=1.13e-06
.ENDS
