*
*|DSPF 1.5
*
*|DATE "Sun Jan 14 12:57:44 2024"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Quantus Extraction"
*|VERSION "22.1.0-p089 Linux 64 bit - (Thu Jan 19 11:47:08 PST 2023)"
*|DESIGN "AOI222X2"
*|DIVIDER /
*|DELIMITER #
*|DeviceFingerDelim "@"
*|BUSBIT []
*|GLOBAL_TEMPERATURE 25
*|OPERATING_TEMPERATURE 25
** QRC_TECH_DIR /vols/wfo_devel/projects/reference_SKY130/tech/sky130_release_0.0.1/quantus/extraction/typical 
** caps2d version: 10
*
.GLOBAL VDD VSS
*
.SUBCKT  AOI222X2 A0 A1 B0 B1 C0 C1 Y
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET A0 5.51105e-16
*|P (A0 X 0 0.4720 1.8870)
*|I (MX50/M0#g MX50/M0 g X 0 0.4750 0.9700)
*|I (MX50/M1#g MX50/M1 g X 0 0.9050 0.9700)
*|I (MX45/M0#g MX45/M0 g X 0 0.4750 2.9850)
*|I (MX45/M1#g MX45/M1 g X 0 0.9050 2.9850)
*|S (A0#13 0.9050 2.1450)
*|S (A0#14 0.6900 2.1450)
*|S (A0#15 0.4450 2.1450)
*|S (A0#17 0.4600 2.1450)
C1 MX45/M1#g VSS 5.64857e-17
C2 MX45/M0#g VSS 6.20965e-17
C3 MX50/M1#g VSS 4.58736e-17
C4 MX50/M0#g VSS 5.32635e-17
C5 A0#14 VSS 1.3154e-16
C6 A0 VSS 2.01846e-16
Rg1 MX45/M1#g A0#13 263.348999 $W=0.15
Rg2 A0#13 A0#14 20.521515 $W=0.33
Rg3 A0#14 A0#15 20.521515 $W=0.33
Rg4 A0#15 MX50/M0#g 366.989502 $W=0.15
Rg5 A0#13 MX50/M1#g 366.989502 $W=0.15
Rg6 A0#15 MX45/M0#g 263.348999 $W=0.15
Rf7 A0#14 A0#17 24.817646 $W=0.17
Re8 A0 A0#17 152.124039 $W=0.26
*
*|NET A1 5.89255e-16
*|P (A1 X 0 1.3920 2.0650)
*|I (MX47/M0#g MX47/M0 g X 0 1.3350 0.9700)
*|I (MX47/M1#g MX47/M1 g X 0 1.7650 0.9700)
*|I (MX43/M0#g MX43/M0 g X 0 1.3350 2.9850)
*|I (MX43/M1#g MX43/M1 g X 0 1.7650 2.9850)
*|S (A1#13 1.7650 1.6250)
*|S (A1#14 1.5500 1.6250)
*|S (A1#15 1.3050 1.6250)
*|S (A1#17 1.3800 1.6250)
C7 MX43/M1#g VSS 6.01236e-17
C8 MX43/M0#g VSS 5.92976e-17
C9 MX47/M1#g VSS 5.54132e-17
C10 MX47/M0#g VSS 5.03263e-17
C11 A1#17 VSS 9.01558e-17
C12 A1#14 VSS 1.35379e-16
C13 A1 VSS 1.38559e-16
Rg9 MX43/M1#g A1#13 430.442322 $W=0.15
Rg10 A1#13 A1#14 20.521515 $W=0.33
Rg11 A1#14 A1#15 20.521515 $W=0.33
Rg12 A1#15 MX47/M0#g 199.896179 $W=0.15
Rg13 A1#13 MX47/M1#g 199.896179 $W=0.15
Rg14 A1#15 MX43/M0#g 430.442352 $W=0.15
Rf15 A1#14 A1#17 20.299999 $W=0.17
Re16 A1 A1#17 152.211533 $W=0.26
*
*|NET B0 5.95344e-16
*|P (B0 X 0 2.7720 2.1040)
*|I (MX48/M0#g MX48/M0 g X 0 3.1450 0.9700)
*|I (MX48/M1#g MX48/M1 g X 0 2.7150 0.9700)
*|I (MX44/M0#g MX44/M0 g X 0 3.1450 2.9850)
*|I (MX44/M1#g MX44/M1 g X 0 2.7150 2.9850)
*|S (B0#13 3.1450 2.1450)
*|S (B0#14 2.9300 2.1450)
*|S (B0#15 2.6850 2.1450)
*|S (B0#17 2.7600 2.1450)
C14 MX44/M1#g VSS 6.67528e-17
C15 MX44/M0#g VSS 5.97522e-17
C16 MX48/M1#g VSS 5.43079e-17
C17 MX48/M0#g VSS 5.24866e-17
C18 B0#17 VSS 2.25349e-16
C19 B0#14 VSS 1.36696e-16
Rg17 MX44/M0#g B0#13 263.348999 $W=0.15
Rg18 B0#13 B0#14 20.521515 $W=0.33
Rg19 B0#14 B0#15 20.521515 $W=0.33
Rg20 B0#15 MX48/M1#g 366.989502 $W=0.15
Rg21 B0#13 MX48/M0#g 366.989502 $W=0.15
Rg22 B0#15 MX44/M1#g 263.348999 $W=0.15
Rf23 B0#14 B0#17 20.299999 $W=0.17
Re24 B0 B0#17 152.019714 $W=0.26
*
*|NET B1 6.09556e-16
*|P (B1 X 0 3.6920 2.0750)
*|I (MX51/M0#g MX51/M0 g X 0 4.0050 0.9700)
*|I (MX51/M1#g MX51/M1 g X 0 3.5750 0.9700)
*|I (MX46/M0#g MX46/M0 g X 0 4.0050 2.9850)
*|I (MX46/M1#g MX46/M1 g X 0 3.5750 2.9850)
*|S (B1#13 4.0050 1.6250)
*|S (B1#14 3.7900 1.6250)
*|S (B1#15 3.5450 1.6250)
*|S (B1#17 3.6800 1.6250)
C20 MX46/M1#g VSS 6.31694e-17
C21 MX46/M0#g VSS 6.64098e-17
C22 MX51/M1#g VSS 4.99655e-17
C23 MX51/M0#g VSS 5.54351e-17
C24 B1#17 VSS 9.77514e-17
C25 B1#14 VSS 1.40467e-16
C26 B1 VSS 1.36357e-16
Rg25 MX46/M0#g B1#13 430.442322 $W=0.15
Rg26 B1#13 B1#14 20.521515 $W=0.33
Rg27 B1#14 B1#15 20.521515 $W=0.33
Rg28 B1#15 MX51/M1#g 199.896179 $W=0.15
Rg29 B1#13 MX51/M0#g 199.896179 $W=0.15
Rg30 B1#15 MX46/M1#g 430.442352 $W=0.15
Rf31 B1#14 B1#17 15.782353 $W=0.17
Re32 B1 B1#17 152.216339 $W=0.26
*
*|NET C0 5.89001e-16
*|P (C0 X 0 5.0720 2.0910)
*|I (MX52/M0#g MX52/M0 g X 0 4.9550 0.9700)
*|I (MX52/M1#g MX52/M1 g X 0 5.3850 0.9700)
*|I (MX54/M0#g MX54/M0 g X 0 4.9550 2.9850)
*|I (MX54/M1#g MX54/M1 g X 0 5.3850 2.9850)
*|S (C0#13 5.3850 2.1450)
*|S (C0#14 5.1700 2.1450)
*|S (C0#15 4.9250 2.1450)
*|S (C0#16 5.0600 2.1440)
C27 MX54/M1#g VSS 5.99488e-17
C28 MX54/M0#g VSS 6.75865e-17
C29 MX52/M1#g VSS 5.24866e-17
C30 MX52/M0#g VSS 5.0906e-17
C31 C0#16 VSS 1.33696e-16
C32 C0 VSS 2.24378e-16
Rg33 MX54/M1#g C0#13 263.348999 $W=0.15
Rg34 C0#13 C0#14 20.521515 $W=0.33
Rg35 C0#14 C0#15 20.521515 $W=0.33
Rg36 C0#15 MX52/M0#g 366.989502 $W=0.15
Rg37 C0#13 MX52/M1#g 366.989502 $W=0.15
Rg38 C0#15 MX54/M0#g 263.348999 $W=0.15
Rf39 C0#16 C0#14 15.733918 $W=0.171
Re40 C0 C0#16 152.025482 $W=0.26
*
*|NET C1 7.06428e-16
*|P (C1 X 0 6.4520 1.9500)
*|I (MX49/M0#g MX49/M0 g X 0 5.8150 0.9700)
*|I (MX49/M1#g MX49/M1 g X 0 6.2450 0.9700)
*|I (MX53/M0#g MX53/M0 g X 0 5.8150 2.9850)
*|I (MX53/M1#g MX53/M1 g X 0 6.2450 2.9850)
*|S (C1#13 6.2450 1.6250)
*|S (C1#14 6.0300 1.6250)
*|S (C1#15 5.7850 1.6250)
*|S (C1#16 6.4400 1.6250)
C33 MX53/M1#g VSS 7.19414e-17
C34 MX53/M0#g VSS 6.60719e-17
C35 MX49/M1#g VSS 5.55456e-17
C36 MX49/M0#g VSS 5.24943e-17
C37 C1#16 VSS 1.73586e-16
C38 C1#14 VSS 1.21656e-16
C39 C1 VSS 1.65133e-16
Rg41 MX53/M1#g C1#13 430.442322 $W=0.15
Rg42 C1#13 C1#14 20.521515 $W=0.33
Rg43 C1#14 C1#15 20.521515 $W=0.33
Rg44 C1#15 MX49/M0#g 199.896179 $W=0.15
Rg45 C1#13 MX49/M1#g 199.896179 $W=0.15
Rg46 C1#15 MX53/M0#g 430.442352 $W=0.15
Rf47 C1#16 C1#14 38.370590 $W=0.17
Re48 C1 C1#16 152.156250 $W=0.26
*
*|NET Y 2.43973e-15
*|P (Y X 0 5.9920 2.1780)
*|I (MX51/M0#d MX51/M0 d X 0 3.9295 0.9700)
*|I (MX51/M1#s MX51/M1 s X 0 3.6505 0.9700)
*|I (MX49/M0#d MX49/M0 d X 0 5.8905 0.9700)
*|I (MX49/M1#s MX49/M1 s X 0 6.1695 0.9700)
*|I (MX47/M0#d MX47/M0 d X 0 1.4105 0.9700)
*|I (MX47/M1#s MX47/M1 s X 0 1.6895 0.9700)
*|I (MX54/M0#d MX54/M0 d X 0 5.0305 2.9850)
*|I (MX54/M1#s MX54/M1 s X 0 5.3095 2.9850)
*|I (MX53/M0#d MX53/M0 d X 0 5.8905 2.9850)
*|I (MX53/M1#s MX53/M1 s X 0 6.1695 2.9850)
*|S (Y#1 1.5500 1.0650)
*|S (Y#3 3.7900 1.0650)
*|S (Y#5 5.1700 3.0900)
*|S (Y#7 6.0300 3.0900)
*|S (Y#9 6.0300 1.1850)
C40 MX53/M0#d VSS 1.73334e-16
C41 MX54/M0#d VSS 2.1199e-16
C42 MX47/M0#d VSS 1.54751e-16
C43 MX49/M0#d VSS 1.48216e-16
C44 MX51/M0#d VSS 1.54471e-16
C45 Y#1 VSS 3.13559e-16
C46 Y#3 VSS 4.8839e-16
C47 Y#5 VSS 1.33505e-16
C48 Y#9 VSS 3.56644e-16
C49 Y#7 VSS 1.41612e-16
C50 Y VSS 1.63254e-16
Rf49 Y#1 MX47/M0#d 14.652941 $W=0.17
Rf50 Y#3 MX51/M0#d 166.652939 $W=0.17
Rf51 Y#5 MX54/M0#d 12.905882 $W=0.17
Rf52 Y#7 MX53/M0#d 164.905884 $W=0.17
Rf53 Y#9 MX49/M0#d 175.688232 $W=0.17
Re54 Y#3 Y#9 1.612069 $W=0.17
Re55 Y#9 Y 0.420763 $W=0.295
Re56 Y Y#7 0.386441 $W=0.295
Re57 Y#3 Y#1 153.577072 $W=0.17
Re58 Y#7 Y#5 152.630310 $W=0.14
Rmw59 MX51/M1#s MX51/M0#d 0.001000 $W=1000000
Rmw60 MX49/M1#s MX49/M0#d 0.001000 $W=1000000
Rmw61 MX47/M1#s MX47/M0#d 0.001000 $W=1000000
Rmw62 MX54/M1#s MX54/M0#d 0.001000 $W=1000000
Rmw63 MX53/M1#s MX53/M0#d 0.001000 $W=1000000
*
*|NET 1 1.7764e-15
*|I (MX54/M0#s MX54/M0 s X 0 4.8795 2.9850)
*|I (MX54/M1#d MX54/M1 d X 0 5.4605 2.9850)
*|I (MX53/M0#s MX53/M0 s X 0 5.7395 2.9850)
*|I (MX53/M1#d MX53/M1 d X 0 6.3205 2.9850)
*|I (MX46/M0#d MX46/M0 d X 0 3.9295 2.9850)
*|I (MX46/M1#s MX46/M1 s X 0 3.6505 2.9850)
*|I (MX44/M0#d MX44/M0 d X 0 3.0695 2.9850)
*|I (MX44/M1#s MX44/M1 s X 0 2.7905 2.9850)
*|S (1 2.9300 3.4000)
*|S (1#3 3.7900 3.4000)
*|S (1#5 4.7400 3.4000)
*|S (1#7 5.6000 3.4000)
*|S (1#9 6.4600 3.4000)
C51 MX44/M0#d VSS 2.21891e-16
C52 MX46/M0#d VSS 2.02021e-16
C53 MX53/M1#d VSS 1.52744e-16
C54 MX54/M1#d VSS 2.14005e-16
C55 MX54/M0#s VSS 1.67105e-16
C56 1#3 VSS 1.98047e-16
C57 1#5 VSS 1.63491e-16
C58 1#7 VSS 1.89714e-16
C59 1#9 VSS 1.22507e-16
C60 1 VSS 1.44879e-16
Rf64 1 MX44/M0#d 36.247059 $W=0.17
Rf65 1#3 MX46/M0#d 188.247055 $W=0.17
Rf66 1#5 MX54/M0#s 188.247055 $W=0.17
Rf67 1#7 MX54/M1#d 188.247055 $W=0.17
Rf68 1#9 MX53/M1#d 36.247059 $W=0.17
Re69 1#9 1#7 152.661636 $W=0.14
Re70 1#7 1#5 0.661638 $W=0.14
Re71 1#5 1#3 0.741995 $W=0.14
Re72 1#3 1 152.661636 $W=0.14
Rmw73 MX53/M0#s MX54/M1#d 0.001000 $W=1000000
Rmw74 MX46/M1#s MX46/M0#d 0.001000 $W=1000000
Rmw75 MX44/M1#s MX44/M0#d 0.001000 $W=1000000
*
*|NET 2 7.88848e-16
*|I (MX50/M0#s MX50/M0 s X 0 0.3995 0.9700)
*|I (MX50/M1#d MX50/M1 d X 0 0.9805 0.9700)
*|I (MX47/M0#s MX47/M0 s X 0 1.2595 0.9700)
*|I (MX47/M1#d MX47/M1 d X 0 1.8405 0.9700)
*|S (2#2 0.2600 0.7550)
*|S (2#4 1.1200 0.7550)
*|S (2 1.9800 0.7550)
C61 MX47/M1#d VSS 2.15029e-19
C62 2#2 VSS 2.17972e-16
C63 2#4 VSS 2.77631e-16
C64 2 VSS 2.9303e-16
Rf76 MX50/M0#s 2#2 23.688236 $W=0.17
Rf77 MX50/M1#d 2#4 175.688232 $W=0.17
Rf78 MX47/M1#d 2 23.688236 $W=0.17
Re79 2 2#4 152.661636 $W=0.14
Re80 2#4 2#2 152.661636 $W=0.14
Rmw81 MX47/M0#s MX50/M1#d 0.001000 $W=1000000
*
*|NET 3 1.64389e-15
*|I (MX46/M0#s MX46/M0 s X 0 4.0805 2.9850)
*|I (MX46/M1#d MX46/M1 d X 0 3.4995 2.9850)
*|I (MX45/M0#s MX45/M0 s X 0 0.3995 2.9850)
*|I (MX45/M1#d MX45/M1 d X 0 0.9805 2.9850)
*|I (MX44/M0#s MX44/M0 s X 0 3.2205 2.9850)
*|I (MX44/M1#d MX44/M1 d X 0 2.6395 2.9850)
*|I (MX43/M0#s MX43/M0 s X 0 1.2595 2.9850)
*|I (MX43/M1#d MX43/M1 d X 0 1.8405 2.9850)
*|S (3 0.2600 3.0900)
*|S (3#3 1.1200 3.0900)
*|S (3#5 1.9800 3.0900)
*|S (3#7 2.5000 3.0900)
*|S (3#9 3.3600 3.0900)
*|S (3#11 4.2200 3.0900)
C65 MX43/M1#d VSS 1.12888e-16
C66 MX44/M1#d VSS 1.26832e-16
C67 MX45/M1#d VSS 1.93552e-16
C68 MX45/M0#s VSS 1.53425e-16
C69 MX46/M1#d VSS 2.07879e-16
C70 MX46/M0#s VSS 1.69051e-16
C71 3#3 VSS 1.08528e-16
C72 3#5 VSS 7.56488e-17
C73 3#7 VSS 1.05643e-16
C74 3#9 VSS 1.71651e-16
C75 3#11 VSS 1.243e-16
C76 3 VSS 9.44943e-17
Rf82 3 MX45/M0#s 12.905882 $W=0.17
Rf83 3#3 MX45/M1#d 164.905884 $W=0.17
Rf84 3#5 MX43/M1#d 164.905884 $W=0.17
Rf85 3#7 MX44/M1#d 164.905884 $W=0.17
Rf86 3#9 MX46/M1#d 164.905884 $W=0.17
Rf87 3#11 MX46/M0#s 12.905882 $W=0.17
Re88 3#11 3#9 152.661636 $W=0.14
Re89 3#9 3#7 0.661638 $W=0.14
Re90 3#7 3#5 0.358066 $W=0.14
Re91 3#5 3#3 0.661638 $W=0.14
Re92 3#3 3 152.661636 $W=0.14
Rmw93 MX44/M0#s MX46/M1#d 0.001000 $W=1000000
Rmw94 MX43/M0#s MX45/M1#d 0.001000 $W=1000000
*
*|NET 5 8.92986e-16
*|I (MX51/M0#s MX51/M0 s X 0 4.0805 0.9700)
*|I (MX51/M1#d MX51/M1 d X 0 3.4995 0.9700)
*|I (MX48/M0#s MX48/M0 s X 0 3.2205 0.9700)
*|I (MX48/M1#d MX48/M1 d X 0 2.6395 0.9700)
*|S (5 2.5000 0.9700)
*|S (5#2 2.5000 0.7550)
*|S (5#4 3.3600 0.7550)
*|S (5#6 4.2200 0.7550)
C77 MX51/M1#d VSS 8.64216e-19
C78 MX51/M0#s VSS 2.2091e-19
C79 5#2 VSS 2.68006e-16
C80 5#4 VSS 3.31843e-16
C81 5#6 VSS 2.92052e-16
Rf95 5 5#2 23.688236 $W=0.17
Rf96 MX51/M1#d 5#4 175.688232 $W=0.17
Rf97 MX51/M0#s 5#6 23.688236 $W=0.17
Re98 5#6 5#4 152.661636 $W=0.14
Re99 5#4 5#2 152.661636 $W=0.14
Rmw100 MX48/M0#s MX51/M1#d 0.001000 $W=1000000
Rmw101 MX48/M1#d 5 0.001000 $W=1000000
*
*|NET 6 8.19641e-16
*|I (MX52/M0#s MX52/M0 s X 0 4.8795 0.9700)
*|I (MX52/M1#d MX52/M1 d X 0 5.4605 0.9700)
*|I (MX49/M0#s MX49/M0 s X 0 5.7395 0.9700)
*|I (MX49/M1#d MX49/M1 d X 0 6.3205 0.9700)
*|S (6#2 4.7400 0.7550)
*|S (6#4 5.6000 0.7550)
*|S (6 6.4600 0.7550)
C82 MX49/M1#d VSS 2.74805e-19
C83 MX52/M1#d VSS 8.49105e-19
C84 6#2 VSS 2.57491e-16
C85 6#4 VSS 3.21553e-16
C86 6 VSS 2.39474e-16
Rf102 MX52/M0#s 6#2 23.688236 $W=0.17
Rf103 MX52/M1#d 6#4 175.688232 $W=0.17
Rf104 MX49/M1#d 6 23.688236 $W=0.17
Re105 6 6#4 152.661636 $W=0.14
Re106 6#4 6#2 152.661636 $W=0.14
Rmw107 MX49/M0#s MX52/M1#d 0.001000 $W=1000000
*
*Instance Section
*
MX52/M0	VSS	MX52/M0#g	MX52/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX52/M1	MX52/M1#d	MX52/M1#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX51/M0	MX51/M0#d	MX51/M0#g	MX51/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX51/M1	MX51/M1#d	MX51/M1#g	MX51/M1#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX50/M0	VSS	MX50/M0#g	MX50/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX50/M1	MX50/M1#d	MX50/M1#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX49/M0	MX49/M0#d	MX49/M0#g	MX49/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX49/M1	MX49/M1#d	MX49/M1#g	MX49/M1#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX48/M0	VSS	MX48/M0#g	MX48/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX48/M1	MX48/M1#d	MX48/M1#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX47/M0	MX47/M0#d	MX47/M0#g	MX47/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX47/M1	MX47/M1#d	MX47/M1#g	MX47/M1#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX54/M0	MX54/M0#d	MX54/M0#g	MX54/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX54/M1	MX54/M1#d	MX54/M1#g	MX54/M1#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX53/M0	MX53/M0#d	MX53/M0#g	MX53/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX53/M1	MX53/M1#d	MX53/M1#g	MX53/M1#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX46/M0	MX46/M0#d	MX46/M0#g	MX46/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX46/M1	MX46/M1#d	MX46/M1#g	MX46/M1#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX45/M0	VDD	MX45/M0#g	MX45/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX45/M1	MX45/M1#d	MX45/M1#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX44/M0	MX44/M0#d	MX44/M0#g	MX44/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX44/M1	MX44/M1#d	MX44/M1#g	MX44/M1#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX43/M0	VDD	MX43/M0#g	MX43/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX43/M1	MX43/M1#d	MX43/M1#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
.ENDS
